US04728464
38.2 Parts 1-amino-4-bromoanthraquinone-2-sulphonic acid are dissolved in 200 parts water/100 parts i-propanol and the pH adjusted to 8.5-9.0 with sodium carbonate. After addition of 18 parts 4-acetylamino-2-aminotoluene the mixture is warmed to 80° C. and treated with 1 part cuprous chloride and 12 parts sodium carbonate. After 4 hours the reaction is over. Finally 25 parts 30% hydrochloric acid are added to the reaction mixture, which is then heated to reflux. After 18 hours the suspension is cooled to room temperature, filtered and washed with 1% hydrochloric acid, to give 1-amino-4-(5'-amino-2'-methylphenylamino)-anthraquinone-2-sulphonic acid.

reactant | 1-amino-4-bromoanthraquinone-2-sulphonic acid | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Br)S(=O)(=O)O | C14H8BrNO5S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-acetylamino-2-aminotoluene | C(C)(=O)NC1=CC(=C(C=C1)C)N | C9H12N2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | i-propanol | C(C)(C)O | C3H8O
product | 1-amino-4-(5'-amino-2'-methylphenylamino)-anthraquinone-2-sulphonic acid | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NC1=C(C=CC(=C1)N)C)S(=O)(=O)O | C21H17N3O5S
